US07176242B2
To a stirred solution of isoquinoline-7-carboxylic acid (200 mg, 1.15 mmol) and N,N-diisopropyl ethylamine (1.20 mL, 6.88 mmol) in methylene chloride (14.0 mL) was added HBTU (438 mg, 1.15 mmol) and the reaction stirred for 0.5 h. (2R,3S)-3-Amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol (470 mg, 1.15 mmol) was added in one portion and the reaction mixture was stirred under nitrogen for 18 h. The reaction mixture was then diluted with additional methylene chloride and washed with saturated sodium bicarbonate, saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 0–5% methanol/methylene chloride) gave N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}isoquinoline-7-carboxamide (100 mg) which was characterized as its bis-HCl salt: mp 142–143° C.; ESI MS m/z 490 [M+H]+

reactant | isoquinoline-7-carboxylic acid | 1.15 mmol, 200 mg | C1=NC=CC2=CC=C(C=C12)C(=O)O | C10H7NO2
reactant | N,N-diisopropyl ethylamine | 6.88 mmol, 1.20 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 1.15 mmol, 438 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-Amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | 1.15 mmol, 470 mg | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
solvent | methylene chloride | 14.0 mL | C(Cl)Cl | CH2Cl2
product | N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}isoquinoline-7-carboxamide | 100 mg | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C2=CC=C3C=CN=CC3=C2)C=C(C1)F | C29H29F2N3O2
